US05726325
To tert-butanol (8.3 ml) were added diphenylphosphoryl azide (1.1 ml, 5.11 mmol), 2-carboxy-6,11-dihydrodibenz-[b,e]oxepin-11-one (Japanese Published Unexamined Patent Application No. 91040/90) (1.0 g, 3.9 mmol), and triethylamine (0.71 ml, 5.11 mmol) under an atmosphere of argon gas, followed by heating under reflux for 2 hours. After the reaction mixture was cooled, it was poured into a 5% aqueous solution of sodium bicarbonate, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained oily substance was purified by silica gel column chromatography (hexane/ethyl acetate=8/1), followed by trituration with hexane to give 2-tert-butoxycarbonylamino-6,11-dihydrodibenz[b,e]oxepin-11-one as a white solid (0.51 g, 41%).

reactant | diphenylphosphoryl azide | 5.11 mmol, 1.1 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-carboxy-6,11-dihydrodibenz-[b,e]oxepin-11-one | 3.9 mmol, 1.0 g | C(=O)(O)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H10O4
reactant | triethylamine | 5.11 mmol, 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | tert-butanol | 8.3 ml | C(C)(C)(C)O | C4H10O
product | 2-tert-butoxycarbonylamino-6,11-dihydrodibenz[b,e]oxepin-11-one | 0.51 g, 41% | C(C)(C)(C)OC(=O)NC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C19H19NO4
